US07919511B2
To a mixture of ethyl 6-chloro-4-(3-fluorophenethylamino)nicotinate (1.2 g, 3.7 mmol), 2-cyano-phenylboronic acid (1.1 g, 7.4 mmol) and K2CO3 (1.5 g, 11.1 mmol) in DMF (25 mL) was added PdCl2.dppf (0.2 g, 0.37 mmol). The reaction mixture was stirred at 100° C. for 4 h. LC/MS indicated the reaction was complete. The reaction mixture was filtered and the filtrate was concentrated. The resulting residue was purified on RP-HPLC using a mixture of acetonitrile and H2O to give ethyl 6-(2-cyanophenyl)-4-(3-fluorophenethylamino)nicotinate (500 mg, 34%). LRMS (M+H+) m/z 389.0.

reactant | ethyl 6-chloro-4-(3-fluorophenethylamino)nicotinate | 3.7 mmol, 1.2 g | ClC1=NC=C(C(=O)OCC)C(=C1)NCCC1=CC(=CC=C1)F | C16H16ClFN2O2
reactant | 2-cyano-phenylboronic acid | 7.4 mmol, 1.1 g | C(#N)C1=C(C=CC=C1)B(O)O | C7H6BNO2
reactant | K2CO3 | 11.1 mmol, 1.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2 | Cl[Pd]Cl
catalyst | dppf | 0.37 mmol, 0.2 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | ethyl 6-(2-cyanophenyl)-4-(3-fluorophenethylamino)nicotinate | 500 mg, 34% | C(#N)C1=C(C=CC=C1)C1=NC=C(C(=O)OCC)C(=C1)NCCC1=CC(=CC=C1)F | C23H20FN3O2
